US09079866B2
4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-ol
To a stirred solution of 5-[3-fluoro-4′-(trifluoromethyl)-2′-{[2-(trimethylsilyl)ethoxy]-methoxy}-biphenyl-4-yl]pyrimidin-2-amine in 14 mL of THF were added water (1.40 mL), acetic acid (1.40 mL) and hydrochloric acid (0.43 mL, 6 N). The reaction was stirred overnight at 65° Celsius, before diluting with ethyl acetate (20 mL) and water (20 mL). The aqueous layer was extracted with ethyl acetate (3×30 mL) and the combined organic extracts dried over Na2SO4, and concentrated to dryness. The crude product was purified by FCC to provide the title compound. MS (ESI): mass calcd. for C17H11F4N3O, 349.08; m/z found, 350.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.61 (s, 2H), 7.61-7.48 (m, 4H), 7.23-7.19 (dd, J=8.3, 1.8, 1H), 7.19-7.17 (d, J=1.6, 1H).

reactant | 5-[3-fluoro-4′-(trifluoromethyl)-2′-{[2-(trimethylsilyl)ethoxy]-methoxy}-biphenyl-4-yl]pyrimidin-2-amine | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=C(C=C1)C(F)(F)F)OCOCC[Si](C)(C)C | C23H25F4N3O2Si
reactant | acetic acid | 1.40 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 6 N, 0.43 mL | Cl | ClH
solvent | THF | 14 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
solvent | water | 1.40 mL | O | H2O
product | 4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-ol | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC(=CC1)C(F)(F)F)O)F | C17H11F4N3O
